US04485140
To avoid reductive dehalogenation, the 2,2-bis[3,5-dichloro-4-(4-nitrophenoxy)phenyl]propane was reduced chemically, rather than catalytically hydrogenated. To a magnetically stirred slurry in a 1-liter Erlenmeyer flask of 53.5 g (0.088 mole) of the dinitro compound and 265 mL of acetic acid warmed to 50°-60° C. there was added a solution of 131 g of (0.58 mole) stannous chloride dihydrate in 132 mL of conc. hydrochloric acid over a 10-minute period. The exothermic reduction raised the temperature to about 100° C., and external heating was stopped. After stirring 1 hr, a chilled solution of 14.0 g (0.35 mole) of sodium hydroxide in 440 mL of water containing 1.0 g of ascorbic acid (antioxidant) was added. Thereafter, every few minutes, 2 g portions of sodium hydroxide were added until an alkaline reaction with pH paper was obtained. The insoluble product, 2,2-bis[3,5-dichloro-4-(4-aminophenoxy)phenyl]propane, was isolated as a white powder by filtration, washing with water containing 0.5 wt % of ascorbic acid, and drying to a constant weight in vacuo at 60° C. Yield, 42.0 g (87%).

reactant | 2,2-bis[3,5-dichloro-4-(4-nitrophenoxy)phenyl]propane | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)[N+](=O)[O-])Cl)C(C)(C)C1=CC(=C(C(=C1)Cl)OC1=CC=C(C=C1)[N+](=O)[O-])Cl | C27H18Cl4N2O6
reactant | acetic acid | 265 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 0.35 mole, 14.0 g | [OH-].[Na+]
reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
solvent | hydrochloric acid | 132 mL | Cl | ClH
solvent | water | 440 mL, 1.0 g | O | H2O
product | 2,2-bis[3,5-dichloro-4-(4-aminophenoxy)phenyl]propane | ClC=1C=C(C=C(C1OC1=CC=C(C=C1)N)Cl)C(C)(C)C1=CC(=C(C(=C1)Cl)OC1=CC=C(C=C1)N)Cl | C27H22Cl4N2O2
